US05578627
To a mixed solution of 19 ml of acetic acid and 19 ml of formic acid is added 3.84 g of 3-[(3-tert-butoxycarbonyl-2,2-dimethyloxazolidin-4-yl)methoxy]-5-chloro-1,2-benzoisoxazole at 20°-25° C., and they are subjected to reaction at the same temperature for one hour. Subsequently, the reaction mixture is poured into 190 ml of water and they are stirred at the same temperature for one hour. The crystals precipitated are collected by filtration, to obtain 2.78 g of 3-(2-tert-butoxycarbonylamino-3-hydroxypropoxy)-5-chloro-1,2-benzoisoxazole.

reactant | acetic acid | 19 ml | C(C)(=O)O | C2H4O2
reactant | formic acid | 19 ml | C(=O)O | CH2O2
reactant | 3-[(3-tert-butoxycarbonyl-2,2-dimethyloxazolidin-4-yl)methoxy]-5-chloro-1,2-benzoisoxazole | 3.84 g | C(C)(C)(C)OC(=O)N1C(OCC1COC1=NOC2=C1C=C(C=C2)Cl)(C)C | C18H23ClN2O5
solvent | water | 190 ml | O | H2O
product | 3-(2-tert-butoxycarbonylamino-3-hydroxypropoxy)-5-chloro-1,2-benzoisoxazole | 2.78 g | C(C)(C)(C)OC(=O)NC(COC1=NOC2=C1C=C(C=C2)Cl)CO | C15H19ClN2O5
